US09102673B2
Step 2: Methyl 1-[2-(4-tert-butoxyphenoxy)ethyl]-4-(3-ethoxyphenyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate
Methyl 1-[2-(4-tert-butoxyphenoxy)ethyl]-4-chloro-1H-pyrrolo[3,2-c]pyridine-2-carboxylate (1 g, 2.482 mmole), 3-ethoxyphenylboronic acid (0.618 g, 3.72 mmole), KF (0.433 g, 7.45 mmole), and bis(tri-t-butylphosphine)palladium(0) (0.127 g, 0.248 mmole) were combined in 1,4-dioxane (10 mL). The mixture was degassed (3× pump/N2) then heated to reflux. After 5 hr the mixture was cooled to RT, diluted with EtOAc, filtered through a pad of Celite washing with EtOAc, and concentrated. Flash column chromatography (Biotage-SNAP-50 g SiO2, 0-30% EtOAc/hexanes) gave the title compound (939 mg, 77%) as an off-white foam. 1H NMR (400 MHz, CDCl3): 8.52 (d, J=6.0 Hz, 1 H); 7.61 (d, J=0.9 Hz, 1 H); 7.52-7.47 (m, 2 H); 7.43 (d, J=7.2 Hz, 2

reactant | Methyl 1-[2-(4-tert-butoxyphenoxy)ethyl]-4-chloro-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 2.482 mmole, 1 g | C(C)(C)(C)OC1=CC=C(OCCN2C(=CC=3C(=NC=CC32)Cl)C(=O)OC)C=C1 | C21H23ClN2O4
reactant | 3-ethoxyphenylboronic acid | 3.72 mmole, 0.618 g | C(C)OC=1C=C(C=CC1)B(O)O | C8H11BO3
reactant | KF | 7.45 mmole, 0.433 g | [F-].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | bis(tri-t-butylphosphine)palladium(0) | 0.248 mmole, 0.127 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | Methyl 1-[2-(4-tert-butoxyphenoxy)ethyl]-4-(3-ethoxyphenyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 939 mg, 77% | C(C)(C)(C)OC1=CC=C(OCCN2C(=CC=3C(=NC=CC32)C3=CC(=CC=C3)OCC)C(=O)OC)C=C1 | C29H32N2O5
